US05435990
Preparation of α-(2-methoxy-5-nitrophenyl)-1,4,7,10-tetraazacyclododecane-1,4,7,10-tetraacetic acid
A solution of α-(2-methoxy-5-nitrophenyl)-1,4,7,10-tetraazacyclododecane-1,4,7,10-tetraacetic acid, tetramethyl ester (prepared by the procedure of Example 10) in concentrated HCl (5 ml, J. T. Baker ULTREX) was refluxed under a nitrogen atmosphere for 5 hours. The solution was then concentrated to dryness in vacuo to leave a solid residue. This was purified by chromatography (silica gel, Solvent System 6) to yield the title product as an off-white solid (209 mg). This material was converted to the tetrahydrochloride salt and was characterized by:

reactant | α-(2-methoxy-5-nitrophenyl)-1,4,7,10-tetraazacyclododecane-1,4,7,10-tetraacetic acid, tetramethyl ester | COC1=C(C=C(C=C1)[N+](=O)[O-])C(C(=O)OC)N1CCN(CCN(CCN(CC1)CC(=O)OC)CC(=O)OC)CC(=O)OC | C27H41N5O11
solvent | HCl | 5 ml | Cl | ClH
product | α-(2-methoxy-5-nitrophenyl)-1,4,7,10-tetraazacyclododecane-1,4,7,10-tetraacetic acid | 209 mg | COC1=C(C=C(C=C1)[N+](=O)[O-])C(C(=O)O)N1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O | C23H33N5O11
